US07157447B2
N-(4-Fluoro-2-(methylcarbamoyl)benzyl)-3-(benzyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 7, 3-(benzyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid and intermediate 39, 2-(aminomethyl)-5-fluoro-N-methylbenzamide. White crystals; mp 189–190° C. (ethyl acetate). 1HNMR 400 MHz (CDCl3) δ (ppm): 3.01 (3H, d, J=4.5 Hz, NCH3), 4.00 (2H, m, CH2), 4.08 (1H, m, CH), 4.50 (2H, d, J=6.6 Hz, NCH2), 4.71 (2H, s, OCH2), 5.38 (2H, s, OCH2), 6.88 (1H, broad q, NH), 7.07 (1H, m, aromatic), 7.16 (1H, dd, J=2.5 Hz and J=8.6 Hz, aromatic), 7.30–7.44 (6H, m, aromatics), 8.55 (1H, broad t, NH). Anal. Calcd for C24H23FN4O5: C, 61.80; H, 4.97; N, 12.01. Found: C, 61.84; H, 4.82; N, 12.00.

reactant | 3-(benzyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2COCCN2C1=O)C(=O)O | C15H14N2O5
reactant | 2-(aminomethyl)-5-fluoro-N-methylbenzamide | NCC1=C(C(=O)NC)C=C(C=C1)F | C9H11FN2O
product | N-(4-Fluoro-2-(methylcarbamoyl)benzyl)-3-(benzyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3COCCN3C(C2OCC2=CC=CC=C2)=O)C=C1)C(NC)=O | C24H23FN4O5
